datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:6])[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14])([H:4])[H:5],58.4505
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])=[C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0]1([H:11])([H:12])[C:1]([H:13])=[C:2]([H:14])[C:3]([H:15])([H:16])[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23],101.253
[H:0].[c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]2[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]12>>[H:0][c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]2[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]12,0.0
[N:0]=[O:1].[O:2][O:3]>>[N:0](=[O:1])[O:2][O:3],13.386
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])([H:20])([H:21])[H:22]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])([H:9])[C:17]([C:16]([H:20])([H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28],4.6024
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[O:10][H:11]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][O:10][H:11],-1.42256
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23](=[C:24][C:25]([H:28])([H:29])[H:30])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:24](=[C:23]([H:26])[H:27])[C:25]([H:28])([H:29])[H:30])[H:13])([H:11])[H:12],6.31784
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10](=[S:11])[H:18])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8]([C:7]([H:12])([H:13])[H:14])([C:9]([H:15])([H:16])[H:17])[C:10](=[S:11])[H:18],84.5168
[C:3]#[N:4].[O:0]([H:1])[H:2]>>[H:1][C:3]#[N:4].[O:0][H:2],31.1708
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22](=[C:23]([C:24]([C:25](=[C:26]([H:32])[H:33])[H:31])[H:30])[H:29])([H:27])[H:28]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:24]([C:23](=[C:22]([H:27])[H:28])[H:29])([C:25](=[C:26]([H:32])[H:33])[H:31])[H:30],93.3032
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([S:11][H:19])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:15])([H:3])[H:4].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[S:11][H:19])([H:12])([H:13])[H:14],-8.7864
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[C:15]([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([O:4][H:14])([H:12])[H:13])([H:5])([H:6])[H:7].[H:8][C:15]([H:16])([H:17])[H:18],30.1248
[C:0](=[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[C:5][C:6]([H:13])([H:14])[H:15])[H:12])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])[C:2](=[C:3]([H:10])[H:11])[C:4]([H:12])=[C:5]1[C:6]([H:13])([H:14])[H:15],28.4512
[C:0]([N:1]([H:5])[H:6])([H:2])([H:3])[H:4].[C:7]([H:8])([H:9])[H:10]>>[C:0]([N:1]([H:5])[H:6])([H:3])[H:4].[H:2][C:7]([H:8])([H:9])[H:10],38.3673
[C:0](=[C:1]1[C:2]([H:11])=[C:3]([H:12])[c:4]2[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]21)[H:10]>>[C:0](=[C:1]1[C:2]([H:11])=[C:3]([H:12])[c:4]2[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8][c:9]21)([H:10])[H:16],162.330832
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])([H:10])[H:11].[H:20][H:21]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:21])([H:9])([H:10])[H:11].[H:20],78.5755
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])([H:8])[C:16]([C:15]([H:19])([H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])([H:5])([H:6])[H:7],13.5143
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6]([C:7]([S:8][H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6](=[C:5]([H:9])[H:10])[H:11])([S:8][H:13])[H:12],111.713
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:4]([H:11])([H:12])[H:13],150.167944
